US07994211B2
i. Hydroxy-di-thiophen-2-yl-acetic acid (1S,2R,4S,7S)-7-({9-[(R)-2-(tert-butyldimethyl-silanyloxy)-2-(8-hydroxy-2-oxo-1,2-dihydroquinolin-5-yl)ethylamino]nonyl}methyl-amino)bicyclo[2.2.1]hept-2-yl ester
A mixture of hydroxy-di-thiophen-2-yl-acetic acid (1S,2R,4S,7S)-7-[methyl-(9-oxo-nonyl)amino]bicyclo[2.2.1]hept-2-yl ester (max 0.73 mmol), 5-[(R)-2-amino-1-(tert-butyldimethylsilanyloxy)ethyl]-8-hydroxy-1H-quinolin-2-one (245 mg, 0.73 mmol), sodium triacetoxyborohydride (186 mg, 0.88 mmol), and acetic acid (2 drops) in dry 1,2-dichloroethane was stirred at ambient temperature overnight. The reaction mixture was partitioned between DCM and satd NaHCO3 (aq). The organic layer was dried (Na2SO4), filtered, and concentrated in vacuo to afford a dark green/brown gum that solidified on standing, which was purified by preparative HPLC (system 2, 35% B+1% B/min). The fractions containing pure product were concentrated, neutralised with satd NaHCO3 (aq), and extracted with DCM. After concentration in vacuo a green/brown oil was obtained.

reactant | hydroxy-di-thiophen-2-yl-acetic acid (1S,2R,4S,7S)-7-[methyl-(9-oxo-nonyl)amino]bicyclo[2.2.1]hept-2-yl ester | 0.73 mmol | CN([C@@H]1[C@H]2[C@@H](C[C@@H]1CC2)OC(C(C=2SC=CC2)(C=2SC=CC2)O)=O)CCCCCCCCC=O | C27H37NO4S2
reactant | 5-[(R)-2-amino-1-(tert-butyldimethylsilanyloxy)ethyl]-8-hydroxy-1H-quinolin-2-one | 0.73 mmol, 245 mg | NC[C@H](O[Si](C)(C)C(C)(C)C)C1=C2C=CC(NC2=C(C=C1)O)=O | C17H26N2O3Si
reactant | sodium triacetoxyborohydride | 0.88 mmol, 186 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | Hydroxy-di-thiophen-2-yl-acetic acid (1S,2R,4S,7S)-7-({9-[(R)-2-(tert-butyldimethyl-silanyloxy)-2-(8-hydroxy-2-oxo-1,2-dihydroquinolin-5-yl)ethylamino]nonyl}methyl-amino)bicyclo[2.2.1]hept-2-yl ester | C(C)(C)(C)[Si](O[C@@H](CNCCCCCCCCCN([C@@H]1[C@H]2[C@@H](C[C@@H]1CC2)OC(C(C=2SC=CC2)(C=2SC=CC2)O)=O)C)C2=C1C=CC(NC1=C(C=C2)O)=O)(C)C | C44H63N3O6S2Si
